US05098900
4-Chloro-5-(4-di-n-propylaminocarbonylbenzylamino)-2-i-propyl-3(2H)pyridazinone (Compound No. 125)
A mixture of 322 mg of 4-chloro-5-(4-carboxy-benzylamino)-2-i-propyl-3(2H)pyridazinone obtained from 2-i-propyl-4,5-dichloro-3(2H)pyrisazinone and 4-carbonxybenzylamine, 194 mg of N,N'-carbonyldiimidazole and 5 ml of dimethylformamide, was stirred at room temperature for one hour. A solution obtained by dissolving 100 mg of di-n-propylamine in 1 ml of dimethylformamide was added thereto, and the mixture was stirred at the same temperature overnight. The solvent was distilled off under reduced pressure, and the pale yellow oily substance thereby obtained was extracted with chloroform. The extract was washed successively with diluted hydrochloric acid, water, a 5% sodium hydroxide aqueous solution and a saturated sodium chloride aqueous solution, and dried over sodium sulfate, and then the solvent was distilled off to obtain a pale yellow oily substance. This substance was subjected to silica gel column chromatography and eluted with benzene:ethyl acetate (2:5, v/v). The colorless viscous oily substance thereby obtained was crystallized from ether-n-hexane to obtain 108 mg of the above identified compound having a melting point of from 78° to 81° C. as colorless crystals.

reactant | 4-chloro-5-(4-carboxy-benzylamino)-2-i-propyl-3(2H)pyridazinone | 322 mg | ClC=1C(N(N=CC1NCC1=CC=C(C=C1)C(=O)O)C(C)C)=O | C15H16ClN3O3
reactant | di-n-propylamine | 100 mg | C(CC)NCCC | C6H15N
solvent | dimethylformamide | 1 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
product | 4-Chloro-5-(4-di-n-propylaminocarbonylbenzylamino)-2-i-propyl-3(2H)pyridazinone | ClC=1C(N(N=CC1NCC1=CC=C(C=C1)C(=O)N(CCC)CCC)C(C)C)=O | C21H29ClN4O2
